data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1F.[Pd]", "products": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1F"}, {"reactants": "COc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1F", "products": "COc1cc2c(cc1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc2c(cc1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc2c(cc1F)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CF)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CF)c(C)c1=C", "products": "Cc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CF)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)c(Br)cc1F.[Pd]", "products": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1F"}, {"reactants": "COc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1F", "products": "COc1cc2c(cc1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc2c(cc1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc2c(cc1F)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(OC)cc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(OC)cc1Cl)C(C)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(Cl)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c(Cl)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(Cl)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c(Cl)c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(Cl)c1"}, {"reactants": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c(Cl)c1", "products": "COc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c(Cl)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(F)C(C)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(F)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(F)C(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(F)C2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(F)C2(C)O3)cc1", "products": "CC12OC(OC1F)C1C(=O)C12"}, {"reactants": "CC12OC(OC1F)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(F)C(C)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(F)C(C)(O3)C21.CO", "products": "COC(=O)C1CC2(C)OC1OC2F"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCC1OC2OC1C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "CCC1OC2C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C1O2.[O-]C", "products": "CCC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2"}, {"reactants": "CCC1OC2C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C1O2", "products": "CCC1OC2OC1C1C(=O)C21"}, {"reactants": "CCC1OC2OC1C1C(=O)C21.[O-]C", "products": "CCC1OC2OC1C1C2C1([O-])OC"}, {"reactants": "CCC1OC2OC1C1C2C1([O-])OC.CO", "products": "CCC1OC2OC1CC2C(=O)OC"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(OC)c1", "products": "COc1cccc(C(OC)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CC)COC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CC)COC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(COC)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
